US07320977B2
4-(tert-Butoxycarbonylamino)-1-carboethoxypiperidine
26.13 g (119.72 mmol) of di-tert-butyl pyrocarbonate and catalytic amounts of 4-dimethylaminopyridine are added to a solution of 10.2 g (58.06 mmol) of 4-amino-1-carbethoxypiperidine in 250 ml of tetrahydrofuran at 0° C. The mixture is allowed to reach room temperature and then stirred for 2 h. The reaction solution is concentrated, and the residue is dissolved in dichloromethane and washed with water and sodium chloride solution. The organic phase is concentrated and dried under high vacuum.

reactant | di-tert-butyl pyrocarbonate | 119.72 mmol, 26.13 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-amino-1-carbethoxypiperidine | 58.06 mmol, 10.2 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-(tert-Butoxycarbonylamino)-1-carboethoxypiperidine | C(C)(C)(C)OC(=O)NC1CCN(CC1)C(=O)OCC | C13H24N2O4
